US08198287B2
1.3 (+/−)2-(4-Oxo-2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidin-9-yl)-1H-isoindole-1,3(2H)-dione
To a suspension of 9.166 g (32.77 mmol) of (+/−)2-(2-Amino-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride (1:1) in 50 mL of toluene was added sodium methanolate (freshly prepared from 0.754 g (32.77 mmol) of sodium in 10 mL of methanol and the reaction mixture was stirred at room temperature for 1 h. The mixture was evaporated to dryness, dissolved in 50 mL of toluene and 4.87 g (25.21 mmol) of ethyl 3-(pyridin-4-yl)-3-oxopropionate was added. The resulting solution was stirred under reflux for 12 h. The cooled solution was evaporated to remove solvent. The mixture was dissolved in dichloromethane, washed with a saturated aqueous solution of ammonium chloride, saturated aqueous sodium chloride, dried over sodium sulfate and evaporated to dryness. The residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol/aqueous ammonia solution (29%) in the proportions 97/3/0.3 led to afford 3.2 g (34%) of the desired compound as a white powder.

reactant | (+/−)2-(2-Amino-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride | 32.77 mmol, 9.166 g | Cl.NC1=NCCCC1N1C(C2=CC=CC=C2C1=O)=O
reactant | sodium methanolate | C[O-].[Na+]
reactant | sodium | 32.77 mmol, 0.754 g | [Na] | Na
reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | 25.21 mmol, 4.87 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 mL | CO | CH4O
product | (+/−)2-(4-Oxo-2-pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidin-9-yl)-1H-isoindole-1,3(2H)-dione | 3.2 g, 34% | O=C1C=C(N=C2N1CCCC2N2C(C1=CC=CC=C1C2=O)=O)C2=CC=NC=C2 | C21H16N4O3
